US04820705
Ethyl 2-carbethoxy-4-(2-p-toluenesulphonamido-indan-5-yl)-4-oxobutyrate
10.6 g (0.095 mol) of potassium tert.-butanolate, followed by 23.0 g (0.063 mol) of (2-p-toluenesulphonamido-indan-5-yl) chloromethyl ketone, are added to 15.2 g (0.095 mol) of diethyl malonate in 25 ml of dimethyl sulphoxide. The mixture is allowed to stand overnight and is neutralised with glacial acetic acid, and water and petroleum ether are added. The reaction product which is precipitated is separated off and dissolved in ethyl acetate. The organic phase is washed with water, dried and evaporated, and the residue obtained is purified by chromatography over 600 g of silica gel using 98:2 ethylene chloride/ethanol.

reactant | potassium tert.-butanolate | 0.095 mol, 10.6 g | C(C)(C)(C)[O-].[K+]
reactant | (2-p-toluenesulphonamido-indan-5-yl) chloromethyl ketone | 0.063 mol, 23.0 g | ClCC(=O)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C1=CC=C(C=C1)C | C18H18ClNO3S
reactant | diethyl malonate | 0.095 mol, 15.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl sulphoxide | 25 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Ethyl 2-carbethoxy-4-(2-p-toluenesulphonamido-indan-5-yl)-4-oxobutyrate | C(=O)(OCC)C(C(=O)OCC)CC(=O)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C1=CC=C(C=C1)C | C25H29NO7S
